US03954754
EXAMPLE 78: 6-Benzoyl-3-isopropylidenehydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
A solution of 0.5 g of 6-benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine in 15 cc of absolute acetone, to which 4 drops of glacial acetic acid have been added, is heated on a water bath for 1 hour. The solution is concentrated in a vacuum, and the crude title compound, obtained as an oil, is crystallized with ether. The title compound has a M.P. of 188°-190° (decomp.).

reactant | 6-benzoyl-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 0.5 g | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)NN)CC1 | C14H15N5O
reactant | acetone | 15 cc | CC(=O)C | C3H6O
catalyst | acetic acid | 4 drops | C(C)(=O)O | C2H4O2
product | 6-Benzoyl-3-isopropylidenehydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C(C1=CC=CC=C1)(=O)N1CC2=C(N=NC(=C2)NN=C(C)C)CC1 | C17H19N5O
